US08106077B2
To a 0° C. solution of 3-(diethoxy-phosphorylmethyl)-benzoic acid methyl ester (1.2 g, 4 eq) in diethyl ether (15 mL) is added sodium hydride (0.17 g, 4 eq). After 1 h, 2-chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-benzaldehyde (0.44 g, 1 eq) in diethyl ether (5 mL) is added and the reaction is stirred overnight. Upon completion, the reaction is quenched with water. The aqueous solution is acidified with 1N HCl and extracted two times with ethyl acetate. The organic layers are combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue is purified via filter chromatography eluting with 10% ethyl acetate:toluene to give 3-(2-{2-Chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-phenyl}-vinyl)-benzoic acid methyl ester (0.459 g).

reactant | 3-(diethoxy-phosphorylmethyl)-benzoic acid methyl ester | 1.2 g, 4 eq | COC(C1=CC(=CC=C1)CP(=O)(OCC)OCC)=O | C13H19O5P
reactant | sodium hydride | 0.17 g, 4 eq | [H-].[Na+]
reactant | 2-chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-benzaldehyde | 0.44 g, 1 eq | ClC1=C(C=O)C=CC(=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl | C19H16Cl3N3O2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 3-(2-{2-Chloro-4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-phenyl}-vinyl)-benzoic acid methyl ester | 0.459 g | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)OCC=1N(N=NC1C(C)C)C1=C(C=CC=C1Cl)Cl)Cl)=O | C28H24Cl3N3O3
